US08003642B2
ethyl 6-[4-(chlorosulfonyl)phenoxy]nicotinate
To chlorosulfonic acid (20 mL) was dropped ethyl 6-phenoxynicotinate (5.6 g) on ice bath, and the reaction mixture was stirred for 15 minutes at room temperature, and 3 hours at 60° C. To reaction mixture was added ice, and extracted with tert-butyl methyl ether. The organic layer was washed with water and brine, dried over anhydrous sodium sulfate, and concentrated to give the title compound (7.5 g) having the following physical data.

reactant | ethyl 6-phenoxynicotinate | 5.6 g | O(C1=CC=CC=C1)C1=NC=C(C(=O)OCC)C=C1 | C14H13NO3
reactant | chlorosulfonic acid | 20 mL | ClS(=O)(=O)O | ClHO3S
product | ethyl 6-[4-(chlorosulfonyl)phenoxy]nicotinate | 7.5 g | ClS(=O)(=O)C1=CC=C(OC2=NC=C(C(=O)OCC)C=C2)C=C1 | C14H12ClNO5S
